US06359138B1
To a solution of (RS)-(6-methoxy-2,3-dihydro-benzofuran-2-yl)-methanol (0.09 g, 0.5 mmol), Et3N (0.1 ml, 0.75 mmol), DMAP (1 mg, 0.01 mmol) in CH2Cl2 (1.5 ml) at 0° C. was added dropwise a solution of p—toluenesulfonylchloride (115 mg, 0.6 mmol). The reaction mixture was allowed to warm to room temperature and was stirred during 4 hr before the addition of H2O (2 ml). The aqueous phase was extracted with CH2Cl2 (2×5 ml). Combined organic phases were dried over Na2SO4, and concentrated. The residue was chromatographed over SiO2 (Merck 230-400 mesh) eluting with nHexane-EtOAc (4:1) to provide (RS)-toluene-4-sulfonic acid 6-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester (120 mg, 72%) as a colorless oil, MS:m/e=334 (M+).

reactant | (RS)-(6-methoxy-2,3-dihydro-benzofuran-2-yl)-methanol | 0.5 mmol, 0.09 g | COC1=CC2=C(CC(O2)CO)C=C1 | C10H12O3
reactant | Et3N | 0.75 mmol, 0.1 ml | CCN(CC)CC | C6H15N
reactant | p—toluenesulfonylchloride | 0.6 mmol, 115 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 2 ml | O | H2O
catalyst | DMAP | 0.01 mmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
product | (RS)-toluene-4-sulfonic acid 6-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester | 120 mg, 72% | COC1=CC2=C(CC(O2)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C17H18O5S
